US04617316
A stirred mixture of 29.0 g (0.17 mole) of 2-methoxy-4-nitroaniline, 18.7 g (0.16 mole) of acetonylacetone and 0.5 g (0.0026 mole) of p-toluenesulfonic acid in 300 ml of toluene was heated at reflux for two hours. A Dean-Stark trap was used to collect a calculated volume of water. The reaction mixture was cooled then poured into 250 ml of ice water. To the mixture was added 100 ml 2N hydrochloric acid. The organic phase was separated and washed in succession with 100 ml of 2N hydrochloric acid, 100 ml of saturated aqueous sodium chloride, 100 ml of 5% aqueous sodium bicarbonate and 100 ml of saturated aqueous sodium chloride. The washed organic phase was dried over anhydrous sodium sulfate, filtered, and the filtrate evaporated under reduced pressure to yield 39.1 g of 2,5-dimethyl-1-(2-methoxy-4-nitrophenyl)pyrrole.

reactant | 2-methoxy-4-nitroaniline | 0.17 mole, 29.0 g | COC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O3
reactant | acetonylacetone | 0.16 mole, 18.7 g | C(C(=O)C)CC(C)=O | C6H10O2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 0.0026 mole, 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2,5-dimethyl-1-(2-methoxy-4-nitrophenyl)pyrrole | 39.1 g | CC=1N(C(=CC1)C)C1=C(C=C(C=C1)[N+](=O)[O-])OC | C13H14N2O3
